US08097627B2
(rac.) 5-{[7-Chloro-6-fluoro-2,5-dihydroxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl}amino}-isoquinolin-1(2H)-one
80.3 mg (0.166 mmol) of (rac.) 5-{[4-(4-chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin-[1(2H)-one is mixed at room temperature with 1.7 ml of a 1 molar solution of boron tribromide in dichloromethane, and it is stirred for two and one-half hours at room temperature. The reaction mixture is mixed with ice, and then saturated sodium bicarbonate solution is added in drops (pH 8). After the ethyl acetate is added and after ten minutes of vigorous stirring at room temperature, the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with water and with brine, dried, and the residue is chromatographed on a Flashmaster after the solvent is spun off. 24.6 mg (31.6%) of the desired compound is isolated.

reactant | (rac.) 5-{[4-(4-chloro-3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin | 0.166 mmol, 80.3 mg | ClC1=C(C(=C(C=C1)C(CC(C=NC1=C2C=CN=CC2=CC=C1)(C(F)(F)F)O)(C)C)OC)F | C23H21ClF4N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (rac.) 5-{[7-Chloro-6-fluoro-2,5-dihydroxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl}amino}-isoquinolin-1(2H)-one | 24.6 mg, 31.6% | ClC1=C(C(=C2C(CC(C(C2=C1)NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)O)F | C22H19ClF4N2O3
